US04988698
A mixture of 7-methylimidazo[1,2-a]pyridine-2-carboxylic acid (10.56 g), 1-hydroxybenzotriazole (8.1 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (11.46 g) and N,N-dimethylformamide (360 ml) was stirred for 1 hour at ambient temperature. 1-(3-Formyl-4-nitrophenyl)piperazine hydrochloride (16.2 g) and triethylamine (9.1 g) were added thereto and the mixture was stirred for 1 hour. The resulting precipitates were collected, washed with ethyl acetate (100 ml×2) and water (100 ml×2), and dried to give 1-(3-formyl-4-nitrophenyl)-4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)piperazine (23.0 g).

reactant | 7-methylimidazo[1,2-a]pyridine-2-carboxylic acid | 10.56 g | CC1=CC=2N(C=C1)C=C(N2)C(=O)O | C9H8N2O2
reactant | 1-hydroxybenzotriazole | 8.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.46 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(3-Formyl-4-nitrophenyl)piperazine hydrochloride | 16.2 g | Cl.C(=O)C=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1
solvent | triethylamine | 9.1 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
product | 1-(3-formyl-4-nitrophenyl)-4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)piperazine | 23.0 g | C(=O)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)C=1N=C2N(C=CC(=C2)C)C1 | C20H19N5O4
